US04775692
To a stirred solution of dimethyl methylphosphonate (10.3 g, 0.083 mol) in 150 ml of anhydrous THF at -78° C. was added dropwise a solution of n-butyl lithium in hexane (1.67N, 50 ml, 0.083 mol) under argon atmosphere. After 30 minutes, a solution of methyl cyclohexylacetate (5.0 g, 0.035 mol) in 10 ml of anhydrous THF was further added and the mixture was stirred for 30 minutes. The reaction solution was allowed to warm to 0° C., diluted with 5 ml of acetic acid and 10 ml of water, and concentrated. 30 ml of water was added to the residue, and then the mixture was extracted with ethyl acetate (50 ml×2). The combined ethyl acetate layers were washed with water (20 ml×1) and brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled under reduced pressure to give a colorless transparent oil of dimethyl 3-cyclohexyl-2-oxopropylphosphonate (7.4 g, 0.0298 mol, yield 85.3%, b.p. 118°-122° C./0.23 mmHg), which was assigned the structure by the following data:

reactant | dimethyl methylphosphonate | 0.083 mol, 10.3 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.083 mol, 1.67N, 50 ml | CCCCCC | C6H14
reactant | methyl cyclohexylacetate | 0.035 mol, 5.0 g | C1(CCCCC1)CC(=O)OC | C9H16O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | dimethyl 3-cyclohexyl-2-oxopropylphosphonate | 0.0298 mol, 7.4 g, yield 85.3% | C1(CCCCC1)CC(CP(OC)(OC)=O)=O | C11H21O4P
